US04775671
41.20 g (112.1 mmol) of 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole and 12.6 g (123.4 mmol) of butyramidoxime are stirred at 60° for 2.5 hours in 200 ml of N,N-dimethylformamide. The cooled suspension is then filtered; the filter residue is rinsed with ether and dried. The product obtained is stirred at 1120° for 3 hours with 350 ml of glacial acetic acid. The reaction mixture is evaporated and the residue is dissolved in methylene chloride. The solution is washed with a saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated. By recrystallization of the residue from methylene chloride and ethyl acetate there is obtained (S)-8-chloro-11,12,13,13a-tetrahydro-1-(3-propyl-1,2,4-oxadiazol-5-yl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]-benzodiazepin-9-one of melting point 176°-178°.

reactant | 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 112.1 mmol, 41.20 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | butyramidoxime | 123.4 mmol, 12.6 g | C(CCC)(N)=NO | C4H10N2O
reactant | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-11,12,13,13a-tetrahydro-1-(3-propyl-1,2,4-oxadiazol-5-yl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]-benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NC(=NO3)CCC)CCC1)=O | C19H18ClN5O2
